US09302992B2
Methyl iodide (10.8 g, 76.3 mmol) was added to a stirred solution of 2-methylquinaldine (1.0 g, 6.3 mmol) and K2CO3 (5.0 g, 36.2 mmol) in 30 ml acetone at RT for 10 h. The reaction mixture was filtered and filtrate removed under a reduced pressure. The residue was purified by flash column chromatography with Hex/EA (3:1) and recrystallized with Hexane/EA to give 8-methoxy-2-methylquinoline as intermediates. LHMDS (2.2 to 2.5 equiv.) was treated with a stirred solution of intermediate (1 equiv.) in THF at 0° C. for 1 h. Corresponding Br(CH2)n−1OH (1.0 to 1.2 equiv.) was added to a reaction mixture and recover to RT for further 12 to 30 h. The solvent was removed under a reduced pressure. The brown oily residue was purified by flash column chromatography with Hex/EA or DCM/EA and recrystallized by Hex/EA to afford series of compounds C.

reactant | Methyl iodide | 76.3 mmol, 10.8 g | CI | CH3I
reactant | 2-methylquinaldine | 6.3 mmol, 1.0 g | CC1(NC2=CC=CC=C2C=C1)C | C11H13N
reactant | K2CO3 | 36.2 mmol, 5.0 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 8-methoxy-2-methylquinoline | COC=1C=CC=C2C=CC(=NC12)C | C11H11NO
